*****************************************************************
* NXP BUK9K25-40E
*
* Polarity N-Channel
* Ratings 40V/2.900000E-002OHMS/23.4490728206524A
*
* Date Created Mon Jul 01 05:36:39 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9K25-40E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 6e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.8e-10
RLS2 SOURCE 8 1.20637157897848
RLS1 8 7 0.00055

RDS 7 4 2666666666.66667 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0155360038168495 TC=0.00553446992712996,1.48939940406571E-05
RBD 9 4 0.00289975242080548 TC=0.00553446992712996,1.48939940406571E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 5000000000
CGS 2 6 4.48759863992632e-10
RG 1 2 2.95036

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	536.279
+ -10	535.825
+ -8	535.131
+ -6	533.875
+ -5	532.729
+ -4	530.577
+ -3	523.189
+ -2	458.68
+ -1	262.418
+ -0.5	187.33
+ -0.2	153.197
+ -0.1	152.433
+ 0	136.3422
+ 0.1	119.64456
+ 0.2	119.48932
+ 0.5	108.06492
+ 1	98.11293
+ 2	86.89565
+ 3	80.3653
+ 4	75.60749
+ 5	71.90184
+ 6	69.15066
+ 8	65.52615
+ 10	63.2613
+ 12	61.64812
+ 15	59.8204
+ 16	59.30758
+ 20	57.508
+ 25	55.654
+ 30	54.1319
+ 32	53.5913



.MODEL MINT NMOS(Vto=2.2420038168495 Kp=4.561040e+001 Nfs=750000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=3.26033124394933e-13
+ N=1 M=0.53 VJ=0.58 Fc=0.5 Cjo=2.8381528e-10 Tt=8.696e-09)

.ENDS

